US05354755
Preparation of 1-(p-Chlorophenyl)-3-(3,4-dihydro-4-oxo-2-(trifluoromethyl)-3-quinazolinyl)urea
4-(p-Chlorophenyl)semicarbazide (1.49 g, 8.03 mmol) is added to a solution of 2-(trifluoromethyl)-4H-3,1-benzoxazin-4-one (1.72 g, 8.00 mmol) in pyridine (27 mL) at 100° C. The reaction mixture is stirred for 15 hours at 100° C., cooled to room temperature and concentrated in vacuo to obtain a solid. The solid is diluted with dichloromethane and the mixture is washed sequentially with 10% hydrochloric acid and water and concentrated in vacuo to obtain a tan solid. The tan solid is washed with dichloromethane and filtered. The filtrate is concentrated in vacuo to obtain a brown foam. The foam is diluted with ether and the mixture is washed sequentially with 10% hydrochloric acid, water and saturated sodium hydrogen carbonate solution, dried over anhydrous MgSO4, decolorized with carbon and concentrated in vacuo to obtain a cream colored foam. Flash chromatography of the cream colored foam using silica gel and a 3:1 dichloromethane/hexanes solution gives the title product as a white solid, 0.36 g, which is identified by 1HNMR spectral analysis.

reactant | 4-(p-Chlorophenyl)semicarbazide | 8.03 mmol, 1.49 g | ClC1=CC=C(C=C1)NC(NN)=O | C7H8ClN3O
reactant | 2-(trifluoromethyl)-4H-3,1-benzoxazin-4-one | 8.00 mmol, 1.72 g | FC(C1=NC2=C(C(O1)=O)C=CC=C2)(F)F | C9H4F3NO2
solvent | pyridine | 27 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | 1-(p-Chlorophenyl)-3-(3,4-dihydro-4-oxo-2-(trifluoromethyl)-3-quinazolinyl)urea | ClC1=CC=C(C=C1)NC(=O)NN1C(=NC2=CC=CC=C2C1=O)C(F)(F)F | C16H10ClF3N4O2
